US06599917B1
d) 4-(α-Acetoxybenzyl)-2-methoxypyridine
A mixture of 104 g of 4-(α-hydroxybenzyl)-2-methoxypyridine, 100 ml of acetic acid anhydride and 100 ml of pyridine was heated under stirring for 5 hours in an oil bath kept at 110° C. After the reaction solution was evaporated, water was added to the residue and the mixture was extracted with ethyl acetate. The extract was washed with an aqueous sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate and the solvent was removed. The residue was subjected to silica gel column chromatography using 5-20% ethyl acetate/hexane, to give 112 g of the target compound.

reactant | 4-(α-hydroxybenzyl)-2-methoxypyridine | 104 g | OC(C1=CC=CC=C1)C1=CC(=NC=C1)OC | C13H13NO2
reactant | acetic acid anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-(α-Acetoxybenzyl)-2-methoxypyridine | 112 g | C(C)(=O)OC(C1=CC=CC=C1)C1=CC(=NC=C1)OC | C15H15NO3
